US07629358B2
Preparation 91: 2-(2,3-Dimethyl-phenyl)-ethylamine
A mixture of 2,3-dimethylphenylacetonitrile (J. Org Chem, 51(26), 5157-60; 1986), (190 mg, 1.31 mmol) and Raney® nickel (100 mg) in 2M methanolic ammonia (5 mL) was stirred under 50 psi of hydrogen gas for 4 days. The mixture was then filtered through Arbocel® and concentrated in vacuo to afford the title compound as a solid in 66% yield, 130 mg. 1H NMR (400 MHz, CDCl3) δ: 7.02-6.94 (3H, m), 2.26-2.13 (10H, m) ppm; LRMS ESI m/z 150 [M+H]+

reactant | 2,3-dimethylphenylacetonitrile | 1.31 mmol, 190 mg | CC1=C(C=CC=C1C)CC#N | C10H11N
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 2M, 5 mL | N | H3N
catalyst | Raney® nickel | 100 mg | [Ni] | Ni
product | 2-(2,3-Dimethyl-phenyl)-ethylamine | 66% yield | CC1=C(C=CC=C1C)CCN | C10H15N
